US04197236
42.7 g of ethyl 4,4-di-(4-hydroxy-3-t-butyl-phenyl)-valerate and 17.1 g of 1,2,2,6,6-pentamethyl-4-hydroxy-piperidine in 120 ml of mesitylene, with the addition of 100 mg of lithium amide as the catalyst, are heated to 160° C. in a nitrogen atmosphere for 5 hours, whilst stirring. During this time, the ethanol formed distils off in the stream of nitrogen and can be measured in a cold trap. After cooling, 100 ml of toluene are added to the batch and the solution is washed with water, dried with calcium chloride and evaporated in vacuo. The crystalline residue is recrystallised from acetonitrile or chlorobenzene. In this way 1,2,2,6,6-pentamethyl-piperidin-4-yl 4,4-di-(4-hydroxy-3-t-butyl-phenyl)-valerate (stabiliser no. 2) is obtained as a white crystalline powder with a melting point of 203° C.

reactant | ethyl 4,4-di-(4-hydroxy-3-t-butyl-phenyl)-valerate | 42.7 g | OC1=C(C=C(C=C1)C(CCC(=O)OCC)(C)C1=CC(=C(C=C1)O)C(C)(C)C)C(C)(C)C | C27H38O4
reactant | 1,2,2,6,6-pentamethyl-4-hydroxy-piperidine | 17.1 g | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
reactant | lithium amide | 100 mg | [NH2-].[Li+]
reactant | ethanol | C(C)O | C2H6O
solvent | mesitylene | 120 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 1,2,2,6,6-pentamethyl-piperidin-4-yl 4,4-di-(4-hydroxy-3-t-butyl-phenyl)-valerate | OC1=C(C=C(C=C1)C(CCC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)(C)C1=CC(=C(C=C1)O)C(C)(C)C)C(C)(C)C | C35H53NO4
